US05008276
A solution of methyl 2-(3-hydroxymethylphenoxy)-3-pyridinylacetate (0.6 g) and triethylamine (0.45 ml) in dichloromethane (2 ml) was added dropwise over 20 minutes to a stirred solution of mesyl chloride (0.26 ml) in dichloromethane (6 ml) at ca. 5° C. The mixture was stirred at 5° C. for 30 minutes, warmed to room temperature and then allowed to stand over the weekend. GC analysis of an aliquot indicated complete reaction. The reaction mixture was stirred with brine for 30 minutes and then the organic layer was dried, filtered and evaporated to give methyl 2-(3-chloromethylphenoxy)-3-pyridinylacetate as a pale yellow oil (0.55 g) which was used directly.

reactant | methyl 2-(3-hydroxymethylphenoxy)-3-pyridinylacetate | 0.6 g | OCC=1C=C(OC2=NC=CC=C2CC(=O)OC)C=CC1 | C15H15NO4
reactant | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.26 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | methyl 2-(3-chloromethylphenoxy)-3-pyridinylacetate | 0.55 g | ClCC=1C=C(OC2=NC=CC=C2CC(=O)OC)C=CC1 | C15H14ClNO3
